US04565781
By hydrolyzing Spicamycin in an aqueous solution of 1N HCl at 100° C. for one hour, adenine, an unknown amino sugar, and an acidic substance can be obtained. By further hydrolyzing this acidic substance in an aqueous solution of 6N HCl at 110° C. for 48 hours, glycine and a mixture of saturated fatty acids can be obtained. The mixture of saturated fatty acids thus obtained was methylated with diazomethane and analyzed by means of gas chromatography-mass spectrometry (1.5% Silicone-OV-1/Shimalite W 170° C.), whereupon this mixture was found to comprise fatty acids represented by (CH3)2CH(CH2)nCOOH (n=8-14) or CH3 (CH2)mCOOH (m=10-16), typically iso-palmitic acid and isomargaric acid.

reactant | Spicamycin | CC(C)CCCCCCCCCCCCC(=O)NCC(=O)NC1C(C(C(OC1C(CO)O)NC2=NC=NC3=C2NC=N3)O)O | C30H51N7O7
reactant | HCl | 1N | Cl | ClH
product | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
